US05985306
(±)-cis-7-Hydroxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)-phenyl)chromane
A mixture of (±)-cis-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)-phenyl)chromane (0.30 g, 0.60 mmol) and anhydrous pyridine hydrochloride (3.50 g, 30.3 mmol) was heated to 150-155° C. as a melt for 18 hours. The mixture was cooled to room temperature, and the resulting orange coloured wax dissolved in a mixture of water (50 ml), hot ethanol (20 ml) and dichloromethane (100 ml). The aqueous layer was basified to pH 14 by adding 10M sodium hydroxide, then 1M hydrochloric acid was added until pH 8-9. The organic layer was collected and the aqueous layer further extracted with dichloromethane (2×75 ml). The combined organics were washed with saturated sodium chloride, dried over magnesium sulfate and evaporated to a dark coloured gum, which was purified by column chromatography on silica gel, with 6% methanol in dichloromethane as eluent, giving the product as a colourless solid.

reactant | (±)-cis-7-methoxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)-phenyl)chromane | 0.60 mmol, 0.30 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OCCN1CCCC1 | C29H30F3NO3
reactant | pyridine hydrochloride | 30.3 mmol, 3.50 g | Cl.N1=CC=CC=C1
reactant | sodium hydroxide | 10M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (±)-cis-7-Hydroxy-4-(4-(2-pyrrolidinoethoxy)phenyl)-3-(4-(trifluoromethyl)-phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)OCCN1CCCC1 | C28H28F3NO3
